US08445505B2
To a solution of 4-(2,5-dimethyl-4-(4-(5-methyl-1H-pyrazol-3-ylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)cyclohexanone (100 mg, 0.22 mmol) in MeOH (15 mL) was added NaBH4 (33.2 mg, 0.87 mmol). The reaction was stirred 30 for min., concentrated and purified by silica chromatography (MeOH/DCM: 8:92) to afford trans-4-(2,5-dimethyl-4-(4-(5-methyl-1H-pyrazol-3-ylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)cyclohexanol; Rf: 0.35 (silica; MeOH/DCM 8:92); ESMS m/z 461.2 (M+H+).

reactant | 4-(2,5-dimethyl-4-(4-(5-methyl-1H-pyrazol-3-ylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)cyclohexanone | 0.22 mmol, 100 mg | CC1=C(C=C(C(=C1)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F)C)C1CCC(CC1)=O | C23H25F3N6O
reactant | NaBH4 | 0.87 mmol, 33.2 mg | [BH4-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | trans-4-(2,5-dimethyl-4-(4-(5-methyl-1H-pyrazol-3-ylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)cyclohexanol | CC1=C(C=C(C(=C1)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F)C)[C@@H]1CC[C@H](CC1)O | C23H27F3N6O
